US08440652B2
General method C was applied to 4-(4-(5-amino-6-bromopyrazin-2-yl)phenyl)tetrahydro-2H-pyran-4-carbonitrile (215 mg, 0.6 mmol) and 8-(4,4,5,5-tetra methyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-1H-benzo[e][1,4]diazepin-5(2H)-one (173 mg, 0.6 mmol) to provide 4-(4-(5-amino-6-(5-oxo-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepin-8-yl)pyrazin-2-yl)phenyl)tetrahydro-2H-pyran-4-carbonitrile as a yellow solid (87 mg, 33% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.47 (s, 1H), 8.14 (d, J=8.3 Hz, 1H), 8.01 (d, J=8.3 Hz, 2 H), 7.58 (d, J=8.3 Hz, 2H), 7.21 (d, J=8.3 Hz, 1H), 7.04 (s, 1H), 6.40 (br. s., 1H), 4.93 (br. s., 2H), 4.57 (br. s., 1H), 4.12 (d, J=8.8 Hz, 2H), 3.94 (t, J=11.7 Hz, 2H), 3.50-3.73 (m, 4 H), 2.02-2.26 (m, 4H); MS (EI) m/z=441.5 [M+1]+.

reactant | 4-(4-(5-amino-6-bromopyrazin-2-yl)phenyl)tetrahydro-2H-pyran-4-carbonitrile | 0.6 mmol, 215 mg | NC=1N=CC(=NC1Br)C1=CC=C(C=C1)C1(CCOCC1)C#N | C16H15BrN4O
reactant | 8-(4,4,5,5-tetra methyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-1H-benzo[e][1,4]diazepin-5(2H)-one | 0.6 mmol, 173 mg | CC1(OB(OC1(C)C)C=1C=CC2=C(NCCNC2=O)C1)C | C15H21BN2O3
product | 4-(4-(5-amino-6-(5-oxo-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepin-8-yl)pyrazin-2-yl)phenyl)tetrahydro-2H-pyran-4-carbonitrile | 87 mg, 33% yield | NC=1N=CC(=NC1C=1C=CC2=C(NCCNC2=O)C1)C1=CC=C(C=C1)C1(CCOCC1)C#N | C25H24N6O2
